US06586421B2
Preparation of 2-[3-(2-azidoethyl)-6-fluoro-1H-indol-2-yl]-propanedioic Acid Dimethyl Ester
To a solution of 3-(2-azidoethyl)-6-fluoro-1H-indole (4.77 g, 23.3 mmol) and NEt3 (3.63 mL, 25.8 mmol) in dry THF (0.13 L) at −78° C. under argon was added tBuOCl (3.04 mL, 26.9 mmol). The reaction mixture was stirred for 30 min at −78° C. A solution of 1 M ZnCl2 in Et2O (5.0 mL) was added. After 15 min a solution of dimethyl lithiomalonate (28.1 mmol in THF/hexanes) was added. The mixture was stirred at −78° C. for 1 h and at rt overnight, diluted with cold water, then extracted with Et2O. The Et2O extracts were dried, filtered, and concentrated to give the title compound: TLC Rf=0.46 (CH2Cl2); MS (ESI−) m/z 333.1; 1H NMR (CDCl3, 300 MHz) δ 8.97 (1H), 7.45 (1H), 7.05 (1H), 6.89 (1H), 5.02 (1H), 3.80 (6H), 3.50 (2H), 2.97 (2H).

reactant | 3-(2-azidoethyl)-6-fluoro-1H-indole | 23.3 mmol, 4.77 g | N(=[N+]=[N-])CCC1=CNC2=CC(=CC=C12)F | C10H9FN4
reactant | NEt3 | 25.8 mmol, 3.63 mL | CCN(CC)CC | C6H15N
reactant | tBuOCl | 26.9 mmol, 3.04 mL | C(C)(C)(C)OCl | C4H9ClO
reactant | dimethyl lithiomalonate | 28.1 mmol | [Li]C(C(=O)OC)C(=O)OC
solvent | THF | 0.13 L | C1CCOC1 | C4H8O
solvent | Et2O | 5.0 mL | CCOCC | C4H10O
solvent | water | O | H2O
catalyst | ZnCl2 | 1 M | [Cl-].[Cl-].[Zn+2]
product | 2-[3-(2-azidoethyl)-6-fluoro-1H-indol-2-yl]-propanedioic Acid Dimethyl Ester | COC(C(C(=O)OC)C=1NC2=CC(=CC=C2C1CCN=[N+]=[N-])F)=O | C15H15FN4O4
